US04857650
To a solution of 50 mg of 2-(1-naphthylmethyl)-3-(N-methyl-N-methoxycarbonylmethylcarbamoyl)propionic acid and 70 mg of isopropyl(2RS,3S)-3-(L-histidyl)amino-2-hydroxy-5-methylhexanoate dihydrochloride in 4 ml of N,N-dimethylformamide were added 0.036 ml of diphenylphosphoryl azide and 0.064 ml of triethylamine with stirring under ice-cooling, and the mixture was stirred overnight. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous sodium bicarbonate solution was added to the residue. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: chloroform/methanol=5/1 by volume; Rf2 =0.36) to obtain 10 mg of isopropyl(2RS,3S)-3-{N-[2-(1-naphthylmethyl)-3-(N-methyl-N-methoxycarbonylmethylcarbamoyl)propionyl]-L-histidyl}amino-2-hydroxy-5-methylhexanoate as a white powder.

reactant | 2-(1-naphthylmethyl)-3-(N-methyl-N-methoxycarbonylmethylcarbamoyl)propionic acid | 50 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CC(N(CC(=O)OC)C)=O | C19H21NO5
reactant | isopropyl(2RS,3S)-3-(L-histidyl)amino-2-hydroxy-5-methylhexanoate dihydrochloride | 70 mg | Cl.Cl.N[C@@H](CC1=CNC=N1)C(=O)N[C@H](C(C(=O)OC(C)C)O)CC(C)C
reactant | diphenylphosphoryl azide | 0.036 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.064 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | isopropyl(2RS,3S)-3-{N-[2-(1-naphthylmethyl)-3-(N-methyl-N-methoxycarbonylmethylcarbamoyl)propionyl]-L-histidyl}amino-2-hydroxy-5-methylhexanoate | 10 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H](C(C(=O)OC(C)C)O)CC(C)C)CC(N(CC(=O)OC)C)=O | C35H47N5O8
